spice
* SPICE Netlist for the given circuit
* Components
VCC VCC 0 DC 10V
RB Vin X 1k
RF X Vout 10k
RC VCC Vout 10k
Q1 Vout X 0 NPN

.model NPN NPN (Is=1e-15 Vaf=100 Bf=100)

.END